US07265109B2
2-(S)-(3-dimethylaminomethylene-thioureidomethyl)-pyrrolidine-1-carboxylic acid 1,1-dimethylethyl ester was prepared from (S)-2-(aminomethyl)-1-pyrrolidinecarboxylic acid 1,1-dimethylethyl ester according to the procedure described in Example A (4-(3-dimethylaminomethylene -thioureidomethyl)-piperidine-1-carboxylic acid tert-butyl ester). Purified by column chromatography on silica gel (2:1 to 3:1 ethyl acetate/hexane eluant). Yellow solid. MS: 315.4 (M+H)+

reactant | (S)-2-(aminomethyl)-1-pyrrolidinecarboxylic acid 1,1-dimethylethyl ester | CC(C)(C)OC(=O)N1[C@@H](CCC1)CN | C10H20N2O2
reactant | 4-(3-dimethylaminomethylene -thioureidomethyl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)CNC(=S)N=CN(C)C | C15H28N4O2S
product | 2-(S)-(3-dimethylaminomethylene-thioureidomethyl)-pyrrolidine-1-carboxylic acid 1,1-dimethylethyl ester | CC(C)(C)OC(=O)N1[C@@H](CCC1)CNC(=S)N=CN(C)C | C14H26N4O2S
